US07763657B2
Step 1: 3-(4-tert-Butyl-2-morpholin-4-yl-phenyl)acrylic acid ethyl ester
Palladium(II) acetate (1.4 mg, 0.006 mmole, 6 mol % eq), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (7.5 mg, 0.012 mmole, 12 mol % eq), and cesium carbonate (50.3 mg, 0.155 mmole, 1.5 eq) were added into anhydrous toluene. 3-(4-tert-Butyl-2-trifluoromethanesulfonyloxyphenyl)acrylic acid ethyl ester (36.2 mg, 0.103 mmol, 1 eq) in toluene solvent was added by cannula. Morpholine (13.5 μl, 0.155 mmol, 1.5 eq) was added. The mixture was stirred for 12 hr in reflux. After confirming the completion of the reaction with TLC, the reaction mixture was filtered with celite. The filterate was concentrated in vacuo, and then the residue was purified with column chromatography(n-Hx:EA=12:1) to give title product (16.7 mg, 51.2%).

reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.012 mmole, 7.5 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 0.155 mmole, 50.3 mg, 1.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(4-tert-Butyl-2-trifluoromethanesulfonyloxyphenyl)acrylic acid ethyl ester | 0.103 mmol, 36.2 mg, 1 eq | C(C)OC(C=CC1=C(C=C(C=C1)C(C)(C)C)OS(=O)(=O)C(F)(F)F)=O | C16H19F3O5S
reactant | Morpholine | 0.155 mmol, 13.5 μl, 1.5 eq | N1CCOCC1 | C4H9NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium(II) acetate | 0.006 mmole, 1.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(4-tert-Butyl-2-morpholin-4-yl-phenyl)acrylic acid ethyl ester | 16.7 mg, 51.2% | C(C)OC(C=CC1=C(C=C(C=C1)C(C)(C)C)N1CCOCC1)=O | C19H27NO3
